US09056859B2
A suspension of diethyl (3-fluoro-2-nitrophenyl)propanedioate (5.50 g, 18.3 mmol) in 40 mL of water was added 40 mL of concentrated hydrochloric acid and the mixture was refluxed for 5 hours. Cooled to room temperature, the mixture was extracted with EtOAc, dried over anhydrous sodium sulfate and concentrated to get crude (3-fluoro-2-nitrophenyl)acetic acid, which was used for next step without purification.

reactant | diethyl (3-fluoro-2-nitrophenyl)propanedioate | 18.3 mmol, 5.50 g | FC=1C(=C(C=CC1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C13H14FNO6
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
product | (3-fluoro-2-nitrophenyl)acetic acid | FC=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C8H6FNO4
